US04187305
2,4,6-Tris-cyclopropylamino-s-triazine
A mixture of 20 g of 2-chloro-4,6-bis-cyclopropylamino-s-triazine, 10.1 g of cyclopropylamine and 80 ml of dioxan is heated at 140° C. in an autoclave for 22 hours. The reaction mixture is concentrated in vacuo to half its volume and 300 ml of water are added. The mixture is extracted with ethyl acetate, the product phase is dried over sodium sulfate and the solvents are removed in vacuo. The residue is recrystallised from dioxan/petroleum ether; melting point 75°-77° C.

reactant | 2-chloro-4,6-bis-cyclopropylamino-s-triazine | 20 g | ClC1=NC(=NC(=N1)NC1CC1)NC1CC1 | C9H12ClN5
reactant | cyclopropylamine | 10.1 g | C1(CC1)N | C3H7N
solvent | dioxan | 80 ml | O1CCOCC1 | C4H8O2
product | 2,4,6-Tris-cyclopropylamino-s-triazine | C1(CC1)NC1=NC(=NC(=N1)NC1CC1)NC1CC1 | C12H18N6
